US08222243B2
5-(4,4-Difluoro-3-oxo-butyryl)-thiophene-2-carboxylic acid ethyl ester
Prepared from 5-Acetyl-thiophene-2-carboxylic acid ethyl ester and ethyl difluoroacetate by the method described in Preparative Example 3. Sodium methoxide was substituted with sodium ethoxide. The product was obtained as a crude oil (5.4 g, 85%). An approx. 5:1 isomer mixture was observed in the NMR spectra of product. 1H NMR (CDCl3) 1.41 (t, J=7.0, 3 H), 3.63 (q, J=7.0, 2 H), 5.98 (t, minor isomer, J=53.2, 1 H), 6.05 (t, major isomer, J=54.0, 1 H), 6.45 (s, 1 H), 7.74 (d, J=4.0, 1 H), 7.80 (d, J=4.0, 1 H). 19F NMR −127.8 (minor isomer, J=53.5), −127.1 (major isomer, J=55.5). LC/MS 5.18 min, [M+1]+ 277.

reactant | 5-Acetyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=CC1)C(C)=O | C9H10O3S
reactant | ethyl difluoroacetate | FC(C(=O)OCC)F | C4H6F2O2
reactant | Sodium methoxide | C[O-].[Na+]
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 5-(4,4-Difluoro-3-oxo-butyryl)-thiophene-2-carboxylic acid ethyl ester | 5.4 g, 85% | C(C)OC(=O)C=1SC(=CC1)C(CC(C(F)F)=O)=O | C11H10F2O4S
